US06660753B2
3-(2-Pyridyl)-5-(3-cyano-5-nitrophenyl)-1,2,4-oxadiazole (30 mg, 0.10 mmol) and tin(II) chloride dihydrate (115 mg, 0.51 mmol) in ethanol (1 mL) were sealed in a glass vial and then heated at 78 oC for 2 hours. The reaction was cooled and dichloromethane was added to the reaction mixture. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Silica gel chromatography of the residue using hexanes:ethyl acetate:dichloromethane 1:3:4 followed by recrystallization using methanol afforded 2.8 mg (10%) of 3-(2-Pyridyl)-5-(3-amino-5-cyanophenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.85 (d, 1H), 8.22 (d, 1H), 7.91 (m, 2H), 7.78 (s, 1H), 7.48 (m, 1H), 7.11 (s, 1H), 4.17 (bs, 2H).

reactant | 3-(2-Pyridyl)-5-(3-cyano-5-nitrophenyl)-1,2,4-oxadiazole | 0.10 mmol, 30 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)[N+](=O)[O-])C#N | C14H7N5O3
reactant | tin(II) chloride dihydrate | 0.51 mmol, 115 mg | O.O.[Sn](Cl)Cl
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-(2-Pyridyl)-5-(3-amino-5-cyanophenyl)-1,2,4-oxadiazole | 2.8 mg, 10% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)N | C14H9N5O
